### PR TITLE
Ring reasoning

### PR DESCRIPTION
**Pull request by JacquesCarette**
Reasoning combinators for monoid, renamed and adapted for Ring. Builds on #2692 .

### CODE REVIEW

**Comment by Taneb** [comment]
1. I'd like to see the new semigroup properties here as well
2. The semigroup properties on `*` and the monoid properties on `+` work for `RingWithoutOne`
3. In fact, they work on `Semiring` and `SemiringWithoutOne`, but we don't have a `Properties` module for those

**Comment by jamesmckinna** [comment]
@Taneb 's 1,2,3 above echo my thoughts on looking at these, but maybe, given our ongoing issues regarding naming in #2688 that it isn't so straightforward to back-fill the `Properties` for weaker structures... yet?

File: src/Algebra/Properties/Ring.agda [hunk 1]
```diff
@@ -30,3 +31,24 @@ open RingWithoutOneProperties ringWithoutOne public
...
+-- Reasoning combinators inherited from Monoid
+
+open PM +-monoid using () renaming
+  ( ε-unique to 0#-unique; ε-comm to 0#-comm
+  ; elimʳ to +-elimʳ; introʳ to +-introʳ
+  ; elimˡ to +-elimˡ; introˡ to +-introˡ
+  ; introᶜ to +-introᶜ
+  ; cancelʳ to +-cancel-invʳ; insertʳ to +-insertʳ
+  ; cancelˡ to +-cancel-invˡ; insertˡ to +-insertˡ
+  ; cancelᶜ to +-cancel-invᶜ; insertᶜ to +-insertᶜ) public
```
Comment (jamesmckinna) [inline src/Algebra/Properties/Ring.agda]: My only nitpick here, in terms of `style-guide` https://github.com/agda/agda-stdlib/blob/5c641176b3008e0a21419fcbe338f9bf3a0df6fd/doc/style-guide.md?plain=1#L189-L196 is as follows:
```suggestion
open PM +-monoid public
   using ()
   renaming ( ε-unique to 0#-unique; ε-comm to 0#-comm
  ; elimʳ to +-elimʳ; introʳ to +-introʳ
  ; elimˡ to +-elimˡ; introˡ to +-introˡ
  ; introᶜ to +-introᶜ
  ; cancelʳ to +-cancel-invʳ; insertʳ to +-insertʳ
  ; cancelˡ to +-cancel-invˡ; insertˡ to +-insertˡ
  ; cancelᶜ to +-cancel-invᶜ; insertᶜ to +-insertᶜ)
```
plus or minus some additional offset whitespace.

File: src/Algebra/Properties/Ring.agda [hunk 2]
```diff
@@ -30,3 +31,24 @@ open RingWithoutOneProperties ringWithoutOne public
...
+
+open PM *-monoid using () renaming
+  ( ε-unique to 1#-unique; ε-comm to 1#-comm
+  ; elimʳ to *-elimʳ; introʳ to *-introʳ
+  ; elimˡ to *-elimˡ; introˡ to *-introˡ
+  ; introᶜ to *-introᶜ
+  ; cancelʳ to *-cancel-invʳ; insertʳ to *-insertʳ
+  ; cancelˡ to *-cancel-invˡ; insertˡ to *-insertˡ
+  ; cancelᶜ to *-cancel-invᶜ; insertᶜ to *-insertᶜ) public
```
Comment (jamesmckinna) [inline src/Algebra/Properties/Ring.agda]: Ditto.
```suggestion
open PM *-monoid public
  using ()
  renaming ( ε-unique to 1#-unique; ε-comm to 1#-comm
  ; elimʳ to *-elimʳ; introʳ to *-introʳ
  ; elimˡ to *-elimˡ; introˡ to *-introˡ
  ; introᶜ to *-introᶜ
  ; cancelʳ to *-cancel-invʳ; insertʳ to *-insertʳ
  ; cancelˡ to *-cancel-invˡ; insertˡ to *-insertˡ
  ; cancelᶜ to *-cancel-invᶜ; insertᶜ to *-insertᶜ)
```

**Review by jamesmckinna — CHANGES_REQUESTED** [review]

**Review by jamesmckinna — APPROVED** [review]
Thanks for incorporating my nitpick suggestions.

**Comment by jamesmckinna** [comment]
Guessing that this PR hints that we should perhaps also have/need the intermediate extension to `Algebra.Properties.(Abelian)Group` to incorporate `inverse` equational simplification for the `+-abelianGroup` sub-structure/-bundle... as a downstream PR.

**Comment by JacquesCarette** [comment]
Yes, there is quite a lot that can be done in this vein.

We should be careful not to have perfect be the enemy of definite-improvement...

**Comment by jamesmckinna** [comment]
> Yes, there is quite a lot that can be done in this vein.
> 
> We should be careful not to have perfect be the enemy of definite-improvement...

Yeah, not my intention *at all* to obstruct this PR with demands for more *here*... but elsewhere, in due course, definitely!

**Comment by JacquesCarette** [comment]
I guess, strictly speaking, neither you nor @Taneb are blocking this on requiring more features...

**Review by Taneb — APPROVED** [review]

**Comment by jamesmckinna** [comment]
Absolutely not blocking from me!

but... maybe a rebase against the new `master` to sort out the `CHANGELOG` conflict, and to catch the already-merged `Semigroup` commits (I think the `Monoid` PR I still open though...?)?

**Comment by JacquesCarette** [comment]
That's why it's Draft, I need to do at least those changes.

**Comment by jamesmckinna** [comment]
Suggest a rebase to bring this up-to-date with everything that has happened so far, esp. if you want this for v2.4
Otherwise looks fine (though I personally don't like 'short' qualified module names such as `PM`, rather than eg `MonoidProperties`), as I don't really see that saving characters is the win worth having, compared to not having to chase at least one level of indirection to figure out what is going on... but then I'm on the 'verbose' end of the spectrum ;-)

**Comment by jamesmckinna** [comment]
@JacquesCarette If you fix up the merge conflicts, happy to merge this in. 
Happy to fix the merge conflicts, if you prefer, or don't currently have time!

File: src/Algebra/Properties/Ring.agda [hunk 3]
```diff
@@ -30,3 +31,26 @@ open RingWithoutOneProperties ringWithoutOne public
   - 1# * x    ≈⟨ -‿distribˡ-* 1# x ⟨
   - (1# * x)  ≈⟨ -‿cong ( *-identityˡ x ) ⟩
   - x         ∎
+
+------------------------------------------------------------------------
+-- Reasoning combinators inherited from Monoid
+
+open PM +-monoid public
+   using ()
+   renaming ( ε-unique to 0#-unique; ε-comm to 0#-comm
```
Comment (jamesmckinna) [inline src/Algebra/Properties/Ring.agda:40]: After rebasing against current `master` versions of `Algebra.Properties.Monoid`, this should better be:
```suggestion
   renaming ( ε-unique to 0#-unique; ε-central to 0#-central
```

File: src/Algebra/Properties/Ring.agda [hunk 4]
```diff
@@ -30,3 +31,26 @@ open RingWithoutOneProperties ringWithoutOne public
...
+  ; elimʳ to +-elimʳ; introʳ to +-introʳ
+  ; elimˡ to +-elimˡ; introˡ to +-introˡ
+  ; introᶜ to +-introᶜ
+  ; cancelʳ to +-cancel-invʳ; insertʳ to +-insertʳ
+  ; cancelˡ to +-cancel-invˡ; insertˡ to +-insertˡ
+  ; cancelᶜ to +-cancel-invᶜ; insertᶜ to +-insertᶜ)
+
+open PM *-monoid public
+  using ()
+  renaming ( ε-unique to 1#-unique; ε-comm to 1#-comm
```
Comment (jamesmckinna) [inline src/Algebra/Properties/Ring.agda:50]: Ditto
```suggestion
  renaming ( ε-unique to 1#-unique; ε-central to 1#-central
```

**Comment by jamesmckinna** [comment]
As with #2851 could we aim to finish this for v2.4, and then take stock/rationalise/refactor as part of the larger-scale `breaking` changes planned for v3.)

**Comment by JacquesCarette** [comment]
Yes, I'll try to deal with the conflicts soon. First, I need to catch up on what's been going on in `stdlib`!

**Comment by jamesmckinna** [comment]
@JacquesCarette  Besides the naming problems arising from `Algebra.Properties.Monoid` cf. #2851 which *should* be fixed sooner than later, let's try to get this merged in, also sooner than later!?

**Comment by JacquesCarette** [comment]
Yes, absolutely! Might be easiest via some synchronous work though.

**Comment by jamesmckinna** [comment]
See also https://github.com/agda/agda-stdlib/issues/2882#issuecomment-3556727048 and, further to yesterday's discussion, we should perhaps consider deprecating *existing* uses of `cancel`/`Cancellative` (despite having just merged #2573 !!!)  in favour of the observation that 'cancellative' properties are *injectivity* properties for (left/right sections of the binary) arithmetic operations... so could, perhaps more simply, be called `...-inj`.

Obvious conflict with 'mathematical' language, and/or more customary informal usage, but balancing those forces really requires us at some point to lift ourselves up out of the weeds and think about different *stakeholders* for `stdlib` and their associated preferred discourse/vocabularies. Thanks to @JacquesCarette for drawing attention to this, and them.
